US09126931B2
6-Cyano-2-[1-(4-ethyl-3-iodophenyl)-1-methyl-ethyl]-benzofuran-3-carboxylic acid tert-butyl ester
4-(4-Ethyl-3-iodo-phenyl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester (1.00 g, 2.40 mmol) was dissolved in NMP (4 ml), added with cesium carbonate (1.56 g, 4.80 mmol, 2.0 eq.), and the mixture was stirred for 5 min. The NMP solution (2 ml) of 4-chloro-3-nitro-benzonitrile (542 mg, 2.88 mmol, 1.2 eq.) was added thereto, and the mixture was stirred at 50° C. for 64 hrs under nitrogen atmosphere. After cooling to room temperature, ethyl acetate (20 ml) was added and the organic layer was washed with saturated aqueous solution of ammonium chloride (20 ml). The organic layer was further washed with saturated brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (white amorphous, 320 mg, 26%).

reactant | 4-(4-Ethyl-3-iodo-phenyl)-4-methyl-3-oxo-pentanoic acid tert-butyl ester | 2.40 mmol, 1.00 g | C(C)(C)(C)OC(CC(C(C)(C)C1=CC(=C(C=C1)CC)I)=O)=O | C18H25IO3
reactant | cesium carbonate | 4.80 mmol, 1.56 g, 2.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-3-nitro-benzonitrile | 2.88 mmol, 542 mg, 1.2 eq. | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | NMP | 4 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 6-Cyano-2-[1-(4-ethyl-3-iodophenyl)-1-methyl-ethyl]-benzofuran-3-carboxylic acid tert-butyl ester | 320 mg, 26% | C(C)(C)(C)OC(=O)C1=C(OC2=C1C=CC(=C2)C#N)C(C)(C)C2=CC(=C(C=C2)CC)I | C25H26INO3
